US07220862B2
5-Formyl-indazole-1-carboxylic acid tert-butyl ester
A methylene chloride (2 mL) solution of di-tert-butyldicarbonate (388 mg, 1.78 mmol) was added dropwise at room temperature to a solution of 1H-indazole-5-carbaldehyde (273 mg, 1.87 mmol), 4-dimethylaminopyridine (114 mg, 0.94 mmol), and triethylamine (0.26 mL, 1.87 mmol) in methylene chloride (10 mL). The resulting bright yellow solution was stirred at room temperature for 16 h. Solvents were removed in vacuo and the residue was subjected to flash chromatography with silica gel (25 g) and ethyl acetate/hexanes (1:1) containing 1% triethylamine as eluent to afford the title compound as a brownish yellow liquid (414 mg, 90%). 1H-NMR (CDCl3, 500 MHz) δ 10.08 (s, 1H), 8.38 (s, 1H), 8.34 (s, 1H), 8.25 (d, J=8.5 Hz, 1H), 8.04 (d, J=8.8 Hz, 1H), 1.71 (s, 9H). 13CNMR (CDCl3, 125 MHz) δ 191.8, 149.0, 142.5, 140.6, 133.0, 128.3, 126.4, 125.8, 115.3, 85.7, 27.8.

reactant | di-tert-butyldicarbonate | 1.78 mmol, 388 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1H-indazole-5-carbaldehyde | 1.87 mmol, 273 mg | N1N=CC2=CC(=CC=C12)C=O | C8H6N2O
reactant | triethylamine | 1.87 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.94 mmol, 114 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-Formyl-indazole-1-carboxylic acid tert-butyl ester | 414 mg, 90% | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)C=O | C13H14N2O3
